US04031243
Morpholine 2-(4-isobutylphenyl)-butyrate
Five (5.0) grams of 2-(4-isobutylphenyl)butyric acid (0.0027 mol) in 20 milliliters of anhydrous diethyl ether was added to a solution of 3.2 grams (0.0264 mol) of morpholine in 20 milliliters of anhydrous diethyl ether and the mixed solution was stirred for 5 minutes and placed in a refrigerator overnight, during which period a white solid precipitated. This solid was separated by filtration and dried. It had a melting point of 69°-71° C and a nitrogen content of 4.60% by weight which is in close agreement with a calculated nitrogen content of 4.56% for morpholine 2-(4-isobutylphenyl)butyrate having the empirical formula C18H29O3N.

reactant | 2-(4-isobutylphenyl)butyric acid | 0.0027 mol | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)CC | C14H20O2
reactant | morpholine | 0.0264 mol, 3.2 grams | N1CCOCC1 | C4H9NO
solvent | diethyl ether | 20 milliliters | C(C)OCC | C4H10O
solvent | diethyl ether | 20 milliliters | C(C)OCC | C4H10O
product | Morpholine 2-(4-isobutylphenyl)-butyrate | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)CC.N1CCOCC1 | InChI=1S/C14H20O2.C4H9NO/c1-4-13(14(15)16)12-7-5-11(6-8-12)9-10(2)3;1-3-6-4-2-5-1/h5-8,10,13H,4,9H2,1-3H3,(H,15,16);5H,1-4H2
